US09284513B2
a) 4,8-dimethyl-7-nonen-2-yn-4-ol
A solution of LaCl3.2LiCl (0.6 M in THF, 80 ml; 133 mmol) was added rapidly to neat 6-methyl-5-hepten-2-one (60.6 g; 480 mmol), at room temperature under nitrogen. After 1 hour, the reaction was cooled into an ice-water bath and a solution of isopropenylmagnesium bromide (0.5 M in THF; 800 ml; 400 mmol) was added over a 3 hour period. The reaction was then warmed up to room temperature and stirred for 3 hours. After cooling back to 0° C., a saturated aqueous ammonium chloride solution (500 ml) was added slowly with vigorous stirring. After warming up to room temperature, the reaction was filtered through celite, thoroughly rinsing with diethyl ether. The filtrate was transferred to a sep. funnel and the phases separated. The aqueous phase was re-extracted with diethyl ether. Each organic phase was washed with brine. Combined extracts were dried over sodium sulfate. The product was purified by fractional vacuum distillation through a 20-cm Widmer column. The boiling point of the pure product was 53° C./0.004 mbar. 294 mmol of product were obtained (yield: 74%).

reactant | 6-methyl-5-hepten-2-one | 480 mmol, 60.6 g | CC(=CCCC(C)=O)C | C8H14O
reactant | isopropenylmagnesium bromide | 400 mmol, 0.5 M, 800 ml | C(=C)(C)[Mg]Br
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | 4,8-dimethyl-7-nonen-2-yn-4-ol | 294 mmol, yield: 74% | CC(C#CC)(CCC=C(C)C)O | C11H18O
